US06833378B2
{4-[4-(1-Ethyl-propylamino)-3,6-dimethyl-pyridin-2-yloxy]-3,5-dimethyl-phenyl}-methanol
A mixture of 4-[4-(1-Ethyl-propylamino)-3,6-dimethyl-pyridin-2-yloxy]-3,5-dimethyl-benzaldehyde and sodium borohydride in methanol was stirred at room temperature. After standard work-up procedure and purification, the title compound was obtained as a solid. 1H NMR(CDCl3) d 7.06(s,2H), 6.08(s,1H), 4.64(s,2H), 3.74(d,1H), 3.33(m,1H), 2.14(s,3H)., 2.13(s,3H), 2.11(s,6H) ppm.

reactant | 4-[4-(1-Ethyl-propylamino)-3,6-dimethyl-pyridin-2-yloxy]-3,5-dimethyl-benzaldehyde | C(C)C(CC)NC1=C(C(=NC(=C1)C)OC1=C(C=C(C=O)C=C1C)C)C | C21H28N2O2
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | {4-[4-(1-Ethyl-propylamino)-3,6-dimethyl-pyridin-2-yloxy]-3,5-dimethyl-phenyl}-methanol | C(C)C(CC)NC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)CO)C)C | C21H30N2O2
